US08791132B2
2-(2-Allyl-8-methyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethanol (740 mg, 2.132 mmol) was dissolved in 40 mL DCM, and purged with nitrogen for 5 min. Pd(PPh3)4 (50 mg, 0.0432 mmol) and 1,3-dimethylbarbituric acid (998 mg, 6.397 mmol) were added and the reaction mixture was stirred at RT for 30 min. The reaction mixture was diluted with saturated aqueous potassium carbonate (20 mL) solution and extracted with DCM (2×20 mL). The combined organic layer was dried over anhydrous sodium sulfate and concentrated. The residue was purified by column chromatography over neutral alumina (eluent 50% MeOH in DCM) to obtain 400 mg of 2-(8-methyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethanol. 1H NMR (CD3OD, freebase) δ (ppm): 8.71 (d, 2H), 8.04 (d, 2H), 7.22 (s, 1H), 7.13 (d, 1H), 6.94 (d, 1H), 5.33 (t, 1H), 4.42 (m, 4H), 3.63 (t, 2H), 3.28 d (t, 1H), 3.22 (m 1H), 2.38 (s, 3H). This racemate was separated by chiral semi-preparative HPLC to obtain enantiomers 39a and 39b.

reactant | 2-(2-Allyl-8-methyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethanol | 2.132 mmol, 740 mg | C(C=C)N1CC2=C(N(C=3C=CC(=CC23)C)CC(O)C2=CC=NC=C2)CC1 | C22H25N3O
reactant | 1,3-dimethylbarbituric acid | 6.397 mmol, 998 mg | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | potassium carbonate | 20 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(PPh3)4 | 0.0432 mmol, 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(8-methyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethanol | 400 mg | CC1=CC=2C3=C(N(C2C=C1)CC(O)C1=CC=NC=C1)CCNC3 | C19H21N3O
